US04117131
Ethyl 2-[(2-amino-6-methylpyrimidin-4-yl)thio]acetate
Sodium (4.6 g, 0.2 mol) was dissolved in 1 l. abs. EtOH. Ethyl mercaptoacetate (24 g, 0.2 mol) was added and the resultant mixture was stirred 1 hr. at room temperature. The 2-amino-4-chloro-6-methylpyrimidine (0.2 mol) was added and the mixture was heated at reflux for 18 hrs. The reaction mixture was evaporated to a syrupy residue which was portitioned between CHCl3 (1.5 l.) and H2O (100 ml). The CHCl3 phase was dried (MgSO4) and evaporated to give the crude product as an oil, 40.6 g (91%). The straw colored oil crystallized upon standing, m.p. 65°-69°. The analytical sample was obtained by a recrystallization from cyclohexane, 27 g (60%), m.p. 71°-73°.

reactant | Sodium | 0.2 mol, 4.6 g | [Na] | Na
reactant | Ethyl mercaptoacetate | 0.2 mol, 24 g | SCC(=O)OCC | C4H8O2S
reactant | 2-amino-4-chloro-6-methylpyrimidine | 0.2 mol | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
solvent | EtOH | CCO | C2H6O
product | Ethyl 2-[(2-amino-6-methylpyrimidin-4-yl)thio]acetate | NC1=NC(=CC(=N1)SCC(=O)OCC)C | C9H13N3O2S
